US08937150B2
In a 500 mL round-bottomed flask was added 1-(4-chloro-3-nitrophenyl)ethanone (11.98 g, 60 mmol) in benzene (75 mL) to give a white suspension. Bromine (9.59 g, 60.0 mmol) was added dropwise over 5 minutes to give a deep red solution. The mixture was stirred for 1 hour to give a yellow solution that was concentrated in vacuo to a yellow solid. Recrystallized from 9:1 hexane/ethyl acetate gave 2-bromo-1-(4-chloro-3-nitrophenyl)ethanone as yellow needles.

reactant | 1-(4-chloro-3-nitrophenyl)ethanone | 60 mmol, 11.98 g | ClC1=C(C=C(C=C1)C(C)=O)[N+](=O)[O-] | C8H6ClNO3
reactant | Bromine | 60.0 mmol, 9.59 g | BrBr | Br2
solvent | benzene | 75 mL | C1=CC=CC=C1 | C6H6
product | 2-bromo-1-(4-chloro-3-nitrophenyl)ethanone | BrCC(=O)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C8H5BrClNO3
